US09422274B2
Step (1). (S)-1-(2-(5-(4-Bromophenyl)-1H-imidazol-2-yl)pyrrolidin-1-yl)ethanone
In Ar atmosphere, 2-bromo-1-(4-bromophenyl)ethanone (2 g, 7.2 mmol) was dissolved in acetonitrile (18 ml) under Ar atmosphere, added with (S)-1-acetylpyrrolidine-2-carboxylic acid (1.1 g, 7.2 mmol) and DIPEA (1.4 g, 10.8 mmol) at 0° C., and agitated at a room temperature for 4 hours. The reaction termination was confirmed by TLC (Hex:EA=2:1) and performed by vacuum evaporation to remove the solvent. The concentrated solution was added with ethylacetate (20 mL) and washed with H2O. The aqueous layer was extracted with ethylacetate (10 mL) and the organic layer was dried with Na2SO4, filtered and concentrated with vacuum evaporation. The product was transferred to a pressure tube, dissolved in xylene (20 mL) and agitated at 160° C. for 2 hours with addition of NH4OAc (2.8 g, 10.8 mmol). The reaction termination was confirmed by TLC (HX:EA=1:1), cooled to a room temperature and concentrated with vacuum evaporation. The concentrated solution was added with dichloromethane (DCM, 20 mL) and washed with H2O (10 mL). The aqueous layer was extracted with DCM (10 mL), and the organic layer was collected. The collected organic layer was dried with Na2SO4, filter and concentrated. The concentrated solution was purified with column chromatograph(Hex/EA=1:1), to obtain the subject compound (1.93 g. 80%).

reactant | 2-bromo-1-(4-bromophenyl)ethanone | 7.2 mmol, 2 g | BrCC(=O)C1=CC=C(C=C1)Br | C8H6Br2O
reactant | (S)-1-acetylpyrrolidine-2-carboxylic acid | 7.2 mmol, 1.1 g | C(C)(=O)N1[C@@H](CCC1)C(=O)O | C7H11NO3
reactant | DIPEA | 10.8 mmol, 1.4 g | CCN(C(C)C)C(C)C | C8H19N
reactant | EA | CC(OCC)=O | C4H8O2
reactant | acetonitrile | 18 ml | C(C)#N | C2H3N
product | (S)-1-(2-(5-(4-Bromophenyl)-1H-imidazol-2-yl)pyrrolidin-1-yl)ethanone | BrC1=CC=C(C=C1)C1=CN=C(N1)[C@H]1N(CCC1)C(C)=O | C15H16BrN3O
